US08076517B2
Pivaldehyde (13.45 g, 156 mmoles) was dissolved in 300 mL methanol in a round bottom flask. 3-methoxy-2-methyl-benzoic acid hydrazide (26.6 g, 147.6 mmoles) and 150 drops glacial acetic acid were added, and the mixture was heated at reflux for ca. 8 hours, while monitoring by TLC. Upon completion of the reaction, the solvent was removed in vacuo, and the product was slurried in cold hexanes and filtered on a Büchner funnel to provide 24.4 g (66%) of 3-methoxy-2-methyl-benzoic acid (2,2-dimethyl-propylidene)-hydrazide. Rf=0.19, (2:1 hexanes:ethyl acetate); 1H NMR (400 MHz, DMSO-d6) δ 7.42+7.41 (3 s, 1H), 7.1 (t, 1H), 6.9 (d, 1H), 6.82 (d, 1H), 3.78 (s, 3H), 2.2+2.1 (2 s, 3H), 1.07+1.0 (3 s, 9H), multiple conformations, possibly E/Z mixture.

reactant | Pivaldehyde | 156 mmoles, 13.45 g | CC(C)(C)C=O | C5H10O
reactant | 3-methoxy-2-methyl-benzoic acid hydrazide | 147.6 mmoles, 26.6 g | COC=1C(=C(C(=O)NN)C=CC1)C | C9H12N2O2
solvent | methanol | 300 mL | CO | CH4O
catalyst | acetic acid | 150 drops | C(C)(=O)O | C2H4O2
product | 3-methoxy-2-methyl-benzoic acid (2,2-dimethyl-propylidene)-hydrazide | 24.4 g, 66% | CC(C=NNC(C1=C(C(=CC=C1)OC)C)=O)(C)C | C14H20N2O2
